US07635715B2
Step F: Preparation of 1,1-Dimethylethyl N-((6-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-yl)carbonyl)glycinate
Ethyl 6-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (0.75 g, 2398 μmol) was dissolved in 1,4-dioxane (4797 μL) and N-ethyl-N-isopropylpropan-2-amine (1253 μL, 7195 μmol). tert-Butyl 2-aminoacetate hydrochloride (603 mg, 3597 μmol) was added, and the reaction was stirred at 80° C. for 3 hours. The reaction was then diluted with 150 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 75 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (227 mg) as a white solid. MS (m/z)=420(M+Na)+.

reactant | Ethyl 6-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 2398 μmol, 0.75 g | ClC=1C=C2C(=C(C(C(C2=C(C1)F)(C)C)=O)C(=O)OCC)O | C15H14ClFO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 7195 μmol, 1253 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 3597 μmol, 603 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 4797 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((6-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-yl)carbonyl)glycinate | 227 mg | ClC=1C=C2C(=C(C(C(C2=C(C1)F)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H21ClFNO5
